US07858623B2
A 100 mL round bottom flask was charged with lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate (0.500 g, 2.28 mmol), methylene chloride (15 ml), and 6 drops of DMF. Oxalyl chloride (0.248 ml, 2.85 mmol) was added dropwise, and the reaction mixture was stirred at room temperature for 3 hours then concentrated in vacuo to yield 7-chlorothieno[3,2-b]pyridine-2-carbonyl chloride as a brown solid. This material was suspended in chloroform (5 mL). N′-hydroxyacetamidine (0.186 g, 2.50 mmol), triethylamine (0.347 ml, 2.50 mmol), and chloroform (15 mL) were stirred together in a 50 mL flask to form a slurry, which was slowly added to the 7-chlorothieno[3,2-b]pyridine-2-carbonyl chloride suspension, then stirred for 1.5 hours at room temperature. The reaction mixture was diluted with chloroform (50 mL) and washed with water (50 mL), sat. aq. NaHCO3 (50 mL) and brine (50 mL). The organic layer was dried with MgSO4, filtered, and concentrated in vacuo. The resulting brown solid was triturated with toluene, and the precipitate collected to obtain the title compound (0.282 g, 46% yield) as a tan solid.

reactant | lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate | 2.28 mmol, 0.500 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
reactant | Oxalyl chloride | 2.85 mmol, 0.248 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 6 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 7-chlorothieno[3,2-b]pyridine-2-carbonyl chloride | ClC1=C2C(=NC=C1)C=C(S2)C(=O)Cl | C8H3Cl2NOS
